US08487113B2
To a solution of 2.0 g of monochloroacetic acid in 10 ml of isopropyl alcohol 3.0 g of the tizanidine base (99.15% HPLC) are added. After brief heating to boil a solution results, from which a crystalline precipitated product starts to separate. After cooling to 0 to 5° C. and aspiration 3.31 g of tizanidine monochloroacetate are obtained.

reactant | monochloroacetic acid | 2.0 g | ClCC(=O)O | C2H3ClO2
reactant | tizanidine | C1=CC(=C(C=2C1=NSN2)NC3=NCCN3)Cl | C9H8ClN5S
solvent | isopropyl alcohol | 10 ml, 3.0 g | C(C)(C)O | C3H8O
product | tizanidine monochloroacetate | 3.31 g | C1=CC(=C(C=2C1=NSN2)NC3=NCCN3)Cl.ClCC(=O)[O-] | InChI=1S/C9H8ClN5S.C2H3ClO2/c10-5-1-2-6-8(15-16-14-6)7(5)13-9-11-3-4-12-9;3-1-2(4)5/h1-2H,3-4H2,(H2,11,12,13);1H2,(H,4,5)/p-1
